US06034239
N-(2-(5-fluoro-6-(2-propynyloxy)indan-1-yl)ethyl]propionamide
Potassium carbonate (1.37 g, 9.95 mmols) and propargyl bromide (2.4 g, 19.9 mmols) were added to a dimethylformamide (10 ml) solution of N-[2-(5-fluoro-6-hydroxyindan-1-yl)ethyl]propionamide (0.5 g, 1.99 mmols) and stirred at 120° C. for 2 hours. The reaction solution was poured into water, and the organic substance was extracted out with ethyl acetate. The extract was washed with a saturated saline solution and water and then dried with anhydrous magnesium sulfate, and the solvent was removed through distillation under reduced pressure. The resulting residue was purified through silica-gel column chromatography (ethyl acetate) to obtain 0.56 g (yield: 97%) of the target compound.

reactant | Potassium carbonate | 9.95 mmols, 1.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 19.9 mmols, 2.4 g | C(C#C)Br | C3H3Br
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N-[2-(5-fluoro-6-hydroxyindan-1-yl)ethyl]propionamide | 1.99 mmols, 0.5 g | FC=1C=C2CCC(C2=CC1O)CCNC(CC)=O | C14H18FNO2
solvent | water | O | H2O
product | N-(2-(5-fluoro-6-(2-propynyloxy)indan-1-yl)ethyl]propionamide | 0.56 g, yield: 97% | FC=1C=C2CCC(C2=CC1OCC#C)CCNC(CC)=O | C17H20FNO2
